US09260408B2
(R)-2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the preparation of example 45, reaction of (R)-2-((5-bromopyridin-3-yloxy)methyl)pyrrolidine-1-carboxylic acid tert-butyl ester (intermediate A-55) and 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) gave the title compound as a colorless solid. MS: 438.6 (M+H+).

reactant | (R)-2-((5-bromopyridin-3-yloxy)methyl)pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC=1C=NC=C(C1)Br | C15H21BrN2O3
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
product | (R)-2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1)C)=O | C25H31N3O4
